Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest and R calf pain  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male ___ recent cardiac arrest thought ___ asystole 
from CHB, prior unprovoked PE not on AC, diverticulosis, 
cervical radiculopathy, presenting with referral from PCP office 
for DVT/PE.  
 Cardiac arrest occurred in ___ and ___ had just arrived 
back home yesterday, but reported ongoing chest pain and calf 
pain both of which were present basically as long as he 
remembers after he regained consciousness from his arrest around 
last ___ calf pain began last ___ perhaps. Chest pain 
is difficult to characterize as has pain from CPR, no pleuritic 
element. Some faint SOB which he says feels like deconditioning, 
otherwise no dyspnea. He underwent ___ and CTA chest which 
demonstrated DVT and 2 small PEs. Also endorses LUE pain. Has hx 
of prior DVT without provocation, not on AC. Patient reports 
getting SQH during his recent hospital stay as far as he 
remembers. Denies swelling of extremities, blood in BMs or 
urine.  
 Per PCP ___: "On ___ after jogging in ___ he went to a 
convenience store. Shortly after leaving the store he collapsed. 
This was witnessed. EMS was called and CPR was initiated. EKG 
showed complete heart block with a rate in the ___. He was given 
atropine and taken to the emergency room. Temporary external 
pacing was initiated, but it was difficult to maintain capture. 
He then developed asystole. He was intubated and continued to 
receive chest compressions. Transvenous pacer was placed, but it 
was also difficult to maintain capture. He was taken to cardiac 
catheter lab where a coronary angiogram showed normal coronary 
arteries and ejection fraction of 65%. The pacemaker wires were 
adjusted so that he had a good response. He was taken to the 
ICU. His blood pressure was low and he received dopamine for a 
while. He was somewhat difficult to ventilate initially. He 
developed a fever with mild leukocytosis and was treated briefly 
with Zosyn and vancomycin. He had a chest CT scan with PE 
protocol that was negative for PE, but showed basilar fluid 
collections. The following day he underwent pacemaker placement. 
He became fluid overloaded, and required diuresis. He received 
routine DVT prophylaxis with subcutaneous heparin. Ultimately he 
did well. He was discharged on ___  
 Patient had an unprovoked DVT in ___, with extensive 
workup not revealing any acute etiology. He was on Coumadin for 
6 months, and then stopped it at the behest of his doctor.  
 Past cardiology notes otherwise notable for syncopal episodes 
in ___ thought ___ sinus bradycardia, with unconcerning stress 
test and event monitor, as well as some dilated RV of unclear 
cause without concerning findings on MRI.  
 In the ED initial vitals were: 98.5 62 148/75 17 100% RA  
 Exam is unremarkable except for a cord palpable in left upper 
arm; pacemaker site seems to be healing well with steri-strips 
intact.  
 EKG: Paced rhythm, 61, left axis deviation, right bundle branch 
block, T-wave inversions in leads V1–3. Dr. ___ 
cardiologist) reviewed, TWI ant is new from prior but likely 
represents T-wave memory.  
 Labs/studies notable for:  
 Nl CBC (hb 12.2); Trop <0.01; lytes WNL (bicarb 20); coags nl  
 ___: DVT in L cephalic vein  
 Bedside V-scan - Likely old RV dilation not related to PE  
 Patient was given 4000u IV heparin bolus and started on a gtt, 
along with ASA 325.  
 Seen by at___ cardiologist who recommended admission for 
observation, heparin GTT overnight, transition to xarelto in AM 
if stable  
 Vitals on transfer: 128/77 60 18 98/RA  
 
 On the floor, patient reports some slight ongoing chest 
tightness without chest pain or SOB. No pain in the R calf or L 
arm.  
 
 REVIEW OF SYSTEMS:  
 Positive per HPI.  
 Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope, or presyncope.  
 On further review of systems, denies fevers or chills. Denies 
any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, cough, hemoptysis, black stools or red stools. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative.  
 

 
Past Medical History:
 1. CARDIAC RISK FACTORS  
 - No DM, HTN, HLD  
 2. CARDIAC HISTORY  
 - Clean coronaries on cat ___  
 - LVEF >55% (TTE prior to recent arrest); recent cath w/ report 
of nl EF  
 - Rhythm: CHB s/p PPM  
 - Hx Cardiac arrest ___ CHB ___  
 3. OTHER PAST MEDICAL HISTORY  
 - Hemorrhoids  
 - Diverticulosis  
 - Colorectal polyps  
 - Cervical radiculopathy  
 - Deep vein thrombosis (DVT) of femoral vein of left lower 
extremity  

 
Social History:
___
Family History:
 Father ___  
 Maternal Grandfather Cancer - ___ (___)  
 Mother ___ Cancer  
 ___ Grandfather ___ (___)  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 98.5 158 / 97 60 18 100 RA  
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
 
NECK: Supple. JVP of 9 cm.  
CARDIAC/CHEST: Regular rate and rhythm. Normal S1, S2. No 
murmurs, rubs, or gallops. Pacemaker incision C/D/I without 
significant surrounding tenderness or erythema. No significant 
tenderness to light palpation of sternum.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAM:
========================
VS: Afebrile 110s-120s/60s-70s 60 18 98% room air
Tele: A-paced, HR 60 , RB
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
 
NECK: Supple. JVP of 9 cm.  
CARDIAC/CHEST: Regular rate and rhythm. Normal S1, S2. No 
murmurs, rubs, or gallops. Pacemaker incision C/D/I without 
significant surrounding tenderness or erythema. No significant 
tenderness to light palpation of sternum.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Palpable veinous cord LUE
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:06PM BLOOD WBC-7.0 RBC-3.98* Hgb-12.2* Hct-36.0* 
MCV-91 MCH-30.7 MCHC-33.9 RDW-12.7 RDWSD-41.4 Plt ___
___ 03:06PM BLOOD Neuts-70.6 Lymphs-18.3* Monos-8.1 Eos-2.3 
Baso-0.4 Im ___ AbsNeut-4.94 AbsLymp-1.28 AbsMono-0.57 
AbsEos-0.16 AbsBaso-0.03
___ 03:06PM BLOOD ___ PTT-29.5 ___
___ 03:06PM BLOOD Glucose-137* UreaN-22* Creat-1.0 Na-140 
K-4.0 Cl-104 HCO3-20* AnGap-20
___ 03:06PM BLOOD cTropnT-<0.01
___ 10:24PM BLOOD cTropnT-<0.01

IMAGES:
=======
TTE (___): The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. There is mild symmetric 
left ventricular hypertrophy. The left ventricular cavity size 
is normal. Overall left ventricular systolic function is normal 
(LVEF = 65%). The right ventricular free wall thickness is 
normal. The right ventricular cavity is moderately dilated with 
normal free wall contractility. The aortic arch is mildly 
dilated. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

LUE US (___): Occlusive left cephalic vein superficial 
thrombophlebitis.  No evidence of deep vein thrombosis. 

DISCHARGE LABS:
================
___ 04:21AM BLOOD Calcium-9.3 Phos-3.3 Mg-2.3
___ 04:21AM BLOOD WBC-6.1 RBC-3.93* Hgb-12.2* Hct-35.3* 
MCV-90 MCH-31.0 MCHC-34.6 RDW-12.6 RDWSD-40.9 Plt ___
___ 04:21AM BLOOD ___ PTT-60.2* ___
___:21AM BLOOD Glucose-97 UreaN-22* Creat-1.0 Na-139 
K-4.3 Cl-103 HCO3-21* AnGap-___ male ___ recent cardiac arrest thought ___ asystole 
from CHB, prior unprovoked PE not on AC, diverticulosis, 
cervical radiculopathy, presenting with referral from PCP office 
for DVT/PE. 

He had a RLE US that showed DVT as an outpatient. His CTA prior 
to admission to BID that showed tiny pulmonary emboli involving 
subsegmental branches in RLL. He was started on a hep gtt and 
then transitioned to xerelto the following day. TTE w/o e/o R 
heart strain and TnT negative x2. His PPM was interrogated and 
there were no concerning rhythms (his rate was adjusted from 60 
to 50).

#Sub-segmental pulmonary embolism: 
#Deep venous thrombosis:
Presenting with sub-segmental PE x2 with DVT in RLE as well as 
CVT in L cephalic vein in L arm. Hemodynamically stable. Hx of 
unprovoked DVT; could consider this provoked given recent 
hospitalization though reports was on SQH. No indication for 
thrombolysis at present. V-scan showed unchanged RV dilation 
from prior, EKG with new TWI but suspected ___ T wave memory iso 
RV pacing. Troponin <0.01 x2. He was given a heparin gtt and 
transitioned to xerelto the next day.

#History of recent asystolic arrest
#Complete heart block s/p PPM:
Patient with recent arrest ISO known hx of sinus bradycardia, 
found to be in CHB suspected leading to hypoperfusion and PEA 
arrest. Had PPM placed in ___ 
___ in ___ - ___ (does not have card with 
him). His PPM was interrogated with no concerning rhythms and 
the low set rate was adjusted from 60 to 50.

#Dilated right ventricle: 
Known to outpatient cardiologist, redemonstrated on bedside 
v-scan but thought to be unchanged from prior. Cardiac MRI 
without concerning findings per report.  
 
#Hypertension: 
No history of HTN, BP was 157/97 on admission. No concerning 
symptoms. ___ be ISO stress from PE, although not in acute 
distress at this point.  
 
#Anemia:
#History of diverticulosis:
Patient w/ hb 12.2 on admission, no report of recent bleed. Hx 
diverticulosis without hx of bleed.  

TRANSITIONAL ISSUES:
====================
-Follow-up: He will follow-up with his outpatient cardiologist 
and PCP
-___ medications: Xerelto 15 mg BID for 21 days and then 20 mg 
qd afterwards for PE. Duration of Anticoagulation to be 
determined by outpatient cardiology team.
-Labs: Hgb 12.2 upon discharge. Please recheck and evaluate if 
persistent as an outpatient.
-CODE STATUS: Full 
-CONTACT: ___, Wife/___, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluocinonide 0.05% Cream 1 Appl TP BID 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth twice a day Disp #*1 Dose Pack Refills:*0 
2.  Fluocinonide 0.05% Cream 1 Appl TP BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
==================
Pulmonary embolism

Secondary diagnosis:
====================
History of recent asystolic cardiac arrest
Complete heart block and recent pacemaker

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted for a pulmonary embolism (blood clot in lung 
and right leg) and you were started on a blood thinner through 
the IV. This was transitioned to xerelto, which is a pill you 
need to take everyday (see instructions below). You were also 
found to have a blood clot in your left arm, but this is 
superficial and should improve over time. Please follow-up with 
your primary care physician and cardiologist as an outpatient.

It was a pleasure caring for you,

-___ medical care team
 
Followup Instructions:
___